US07238822B2
11 g of trimethylsilyl chloride was dissolved in 30 mol of well dried tetrahydrofuran in a 300 ml flask whose inside had been substituted by nitrogen, and the obtained solution was cooled to −78° C. 100 ml of a tetrahydrofuran solution (2.0 mol/l) of cyclopentadienyl sodium was added dropwise to the above solution in a stream of nitrogen over 1 hour. The solution was stirred at −78° C. for 1 hour and returned to room temperature over 6 hours. A salt precipitated in the mixture solution was removed by filtration in a nitrogen atmosphere, and the residual solution was distilled to obtain 8 g of trimethylsilyl cyclopentadiene.

reactant | trimethylsilyl chloride | 11 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | cyclopentadienyl sodium | C1(C=CC=C1)[Na]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.0 mol/l, 100 ml | O1CCCC1 | C4H8O
product | trimethylsilyl cyclopentadiene | 8 g | C[Si](C)(C)C1=CC=CC1 | C8H14Si
